US20010027196A1
5-Chloro-6-furan-2-yl-N4-(3-phenyl-propyl)-pyrimidine-2,4-diamine
From 5-chloro-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine and 3-phenylpropylamine in dioxane. ES-MS m/e (%): 331 (M{37C }+H+, 30), 329 (M{35Cl}+H+, 100).

reactant | 5-chloro-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine | ClC=1C(=NC(=NC1S(=O)C)N)C=1OC=CC1 | C9H8ClN3O2S
reactant | 3-phenylpropylamine | C1(=CC=CC=C1)CCCN | C9H13N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-Chloro-6-furan-2-yl-N4-(3-phenyl-propyl)-pyrimidine-2,4-diamine | ClC=1C(=NC(=NC1C=1OC=CC1)N)NCCCC1=CC=CC=C1 | C17H17ClN4O
